* Schematics Netlist *



D_D2         $N_0001 0 D1N4148 
C_C2         0 $N_0002  3n IC=0 
R_R2         $N_0003 Vcc  4.7k  
R_R8         0 $N_0004  100  
V_V3         Vcc 0 5V
C_C8         $N_0005 $N_0001  {cond}  
V_V5         $N_0006 0 50V
C_C3         0 $N_0007  1n IC=0 
R_R9         Vcc $N_0008  100  
M_M3         $N_0005 $N_0008 0 0 IRF530
Q_Q1         $N_0008 $N_0009 0 BC547C 
X_U2         0 $N_0002 $N_0010 Vcc $N_0007 $N_0002 $N_0003 Vcc 555B
C_C7         0 $N_0004  {cond2}  
R_R10         $N_0010 $N_0009  10k  
R_R3         $N_0002 $N_0003  3.4k  
L_L5         $N_0001 $N_0004  3.9mH  
L_L4         $N_0006 $N_0005  3mH  
