* Schematics Netlist *



V_V1         $N_0001 0 DC 0V AC 1V 
L_L1         $N_0002 $N_0003  8.8mH  
R_R2         $N_0001 $N_0004  50  
R_R1         $N_0003 $N_0004  9  
C_C2         0 $N_0004  256.3p  
C_C1         0 $N_0002  14.5p  
