* Schematics Netlist *



V_V1         $N_0001 0 5V
L_L1         $N_0002 $N_0003  50uH  
Q_Q1         $N_0002 $N_0004 0 BC547B 
R_R1         0 $N_0005  50  
C_C1         $N_0002 $N_0006  1u  
R_R3         $N_0001 $N_0003  10  
X_TX1    $N_0007 0 $N_0004 0 ClaseC_5V_TX1 
C_C4         0 $N_0007  28p  
I_I1         $N_0008 0 DC 0A AC 1A 
R_R2         $N_0009 $N_0007  100  
V_V2         $N_0009 0 DC 0 AC 1
+SIN 0 2 30Meg 0 0 0
R_R5         0 $N_0010  50  
C_C7         0 $N_0008  212p  
C_C8         0 $N_0010  325p  
L_L4         $N_0008 $N_0010  205.7n  
C_C2         0 $N_0006  85p  
C_C3         0 $N_0005  106p  
L_L2         $N_0006 $N_0005  398n  

.subckt ClaseC_5V_TX1 1 2 3 4  
K_TX1         L1_TX1 L2_TX1 1
L1_TX1         1 2 1uH
L2_TX1         3 4 1uH
.ends ClaseC_5V_TX1
