* Schematics Netlist *



R_R1         0 $N_0001  500  
R_R2         0 $N_0002  500  
R_R3         0 $N_0003  500  
Q_Q1         $N_0005 $N_0004 $N_0002 BC547C 
V_V1         Vcc 0 5v
Q_Q2         $N_0004 $N_0004 $N_0001 BC547C 
R_R4         Vcc $N_0004  4k  
Q_Q3         $N_0006 $N_0007 $N_0005 QBF240/PLP 
Q_Q4         $N_0008 $N_0008 $N_0009 BC557C 
Q_Q5         $N_0010 $N_0008 $N_0011 BC557C 
Q_Q6         $N_0012 $N_0010 $N_0013 BC547C 
R_R5         0 $N_0013  1k  
Q_Q7         $N_0010 $N_0010 $N_0014 BC547C 
R_R6         0 $N_0014  1k  
R_R7         0 $N_0015  500  
Q_Q8         $N_0016 $N_0004 $N_0015 BC547C 
Q_Q9         $N_0012 $N_0012 $N_0017 BC547C 
Q_Q10         Vcc $N_0012 $N_0016 BC547C 
R_R8         $N_0018 Vcc  1k  
R_R9         $N_0009 Vcc  1k  
R_R10         $N_0019 Vcc  1k  
R_R11         $N_0011 Vcc  1k  
Q_Q11         out1 out1 $N_0019 BC557C 
Q_Q12         $N_0012 out1 $N_0018 BC557C 
Q_Q13         $N_0005 $N_0004 $N_0003 BC547C 
Q_Q15         $N_0020 $N_0021 $N_0005 QBF240/PLP 
R_R13         0 $N_0021  22k  
Q_Q16         Vcc $N_0022 $N_0021 BC547C 
Q_Q17         Vcc Vcc $N_0023 BC547C 
Q_Q20         out1 $N_0024 $N_0006 QBF240/PLP 
Q_Q21         $N_0008 $N_0024 $N_0020 QBF240/PLP 
R_R14         0 $N_0024  22k  
Q_Q22         $N_0025 $N_0025 $N_0023 BC557C 
Q_Q23         out1 $N_0025 $N_0020 QBF240/PLP 
Q_Q24         $N_0008 $N_0025 $N_0006 QBF240/PLP 
R_R15         0 $N_0025  22k  
R_R18         $N_0022 Vcc  4.7k  
R_R19         0 $N_0022  4.7k  
R_R20         $N_0012 Vcc  4.7k  
R_R21         0 $N_0017  4.7k  
C_C3         0 $N_0026  47n  
R_R22         $N_0016 $N_0026  1k  
C_C5         0 $N_0012  1n  
R_R12         0 $N_0007  22k  
Q_Q14         Vcc $N_0027 $N_0007 BC547C 
R_R16         $N_0027 Vcc  4.7k  
R_R17         0 $N_0027  4.7k  
C_C2         $N_0028 $N_0027  100n  
R_R25         $N_0030 $N_0029  10k  
C_C8         $N_0029 $N_0024  100n  
R_R24         $N_0031 $N_0030  10k  
C_C9         $N_0028 $N_0031  100n  
C_C7         0 $N_0032  350p  
R_R26         $N_0031 $N_0032  1k  
R_R27         Vcc $N_0032  100k  
R_R28         0 $N_0032  100k  
Q_Q19         $N_0024 $N_0024 $N_0033 BC557C 
V_V2         $N_0028 0 DC 2.5 AC 1
+SFFM 0 0.1 455k 15 1k
X_U1A         $N_0032 $N_0030 Vcc 0 $N_0029 TL082
Q_Q18         Vcc Vcc $N_0033 BC547C 
