* Schematics Netlist *



R_R28         0 $N_0001  500  
Q_Q16         $N_0002 $N_0002 $N_0001 BC547C 
R_R29         0 $N_0003  500  
R_R30         0 $N_0004  500  
Q_Q17         $N_0005 $N_0002 $N_0003 BC547C 
Q_Q18         $N_0006 $N_0002 $N_0004 BC547C 
R_R31         $N_0006 $N_0005  500  
R_R32         $N_0007 Vcc  9.4k  
R_R33         $N_0008 0  2.35k  
R_R34         $N_0008 MOD  4.7k  
R_R35         MOD Vcc  9.4k  
Q_Q19         $N_0009 $N_0007 $N_0005 QBF240/PLP 
Q_Q20         $N_0010 MOD $N_0006 QBF240/PLP 
R_R36         $N_0012 $N_0011  50  
C_C11         MOD $N_0011  100u  
V_V4         Vcc 0 5v
C_C12         OL $N_0013  100n  
R_R37         Vcc $N_0002  4k  
R_R38         $N_0014 0  2.35k  
R_R39         $N_0014 $N_0007  4.7k  
C_C14         0 $N_0007  100u  
Q_Q24         out2 $N_0015 $N_0009 QBF240/PLP 
C_C16         0 $N_0015  1u  
R_R40         0 $N_0015  9.4k  
R_R41         $N_0015 Vcc  4.7k  
Q_Q25         out2 OL $N_0010 QBF240/PLP 
R_R42         $N_0016 $N_0013  50  
R_R44         out2 Vcc  1k  
R_R45         $N_0015 OL  1k  
Q_Q21         $N_0017 $N_0018 0 QBC547C/PLP 
Q_Q14         $N_0019 $N_0020 0 QBC547C/PLP 
C_C19         $N_0021 $N_0018  {cap}  
C_C20         $N_0022 $N_0020  {cap}  
R_R43         out1 Vcc  1k  
Q_Q23         out1 $N_0015 $N_0010 QBF240/PLP 
Q_Q26         out1 OL $N_0009 QBF240/PLP 
X_TX6    out1 out2 $N_0022 $N_0021 ModuladorAM3_TX6 
R_R51         0 $N_0020  10k  
R_R52         $N_0018 0  10k  
R_R54         $N_0021 $N_0018  1k  
R_R53         $N_0022 $N_0020  1k  
V_V6         $N_0012 0  AC 0.1
+SIN 0 400m 10k 0 0 0
L_L10         $N_0023 $N_0020  330u  
L_L9         $N_0018 $N_0023  330u  
Q_Q27         $N_0023 $N_0023 0 QBC547C/PLP 
R_R50         $N_0023 Vcc  2k  
X_TX5         $N_0019 Vcc $N_0017 $N_0024 0 XFRM_LIN/CT-PRI PARAMS: Lp1_value=
+ {Lp2} Lp2_value={Lp2} Ls_value={Ls2} Coupling=0.99 Rp_value=0.25 Rs_value=0.25
R_RL2         0 $N_0025  50  
C_C21         0 $N_0024  138p  
C_C22         0 $N_0025  170p  
L_L11         $N_0024 $N_0025  446nH  
V_V5         $N_0016 0  AC 0.1
+SIN 0 20m 1.6Meg 0 0 0

.subckt ModuladorAM3_TX6 1 2 3 4  
K_TX6         L1_TX6 L2_TX6 1
L1_TX6         1 2 {Lp1}
L2_TX6         3 4 {Ls1}
.ends ModuladorAM3_TX6
