* Schematics Netlist *



V_V1         $N_0001 0 3
Q_Q2         $N_0001 $N_0002 $N_0003 QBF240/PLP 
C_C3         $N_0003 $N_0002  1n  
L_L1         $N_0004 $N_0002  130nH  
Q_Q1         $N_0001 $N_0004 $N_0005 QBF240/PLP 
C_C4         $N_0005 $N_0004  1n  
V_V2         $N_0006 0 1.2V
R_R1         $N_0006 $N_0004  3.3k  
R_R4         $N_0006 $N_0002  3.3k  
C_C2         $N_0005 $N_0003  10p  
R_R2         0 $N_0005  1.4k  
R_R3         0 $N_0003  1.4k  
C_C1         $N_0004 $N_0002  30p IC=1m 
