* Schematics Netlist *



R_R1         0 $N_0001  100  
C_C1         0 $N_0001  6u  
L_L1         $N_0002 $N_0001  3.9m  
V_V1         $N_0002 0 DC 0V AC 1V 
