* Schematics Netlist *



R_R1         $N_0002 $N_0001  50  
C_C1         $N_0001 $N_0003  10u  
L_L1         0 $N_0003  100uH  
V_V1         $N_0002 0 DC 0 
+SIN 0 {in} 0.6meg 0 0 0
V_V3         vcc 0 12V
D_D11         $N_0004 $N_0003 OA90-G 
J_J1         $N_0005 $N_0004 0 BF245A 
R_R10         $N_0005 vcc  3k  
C_C2         0 $N_0004  500n  
R_R14         0 $N_0004  100k  
