* Schematics Netlist *



V_V1         $N_0001 0 DC 0V AC 1V 
R_R1         $N_0001 $N_0002  50  
L_L1         $N_0003 $N_0004  1mH  
C_C1         0 $N_0003  1.58p  
R_R2         $N_0004 $N_0002  8  
