* Schematics Netlist *



V_V1         $N_0001 0 10V
R_R2         0 $N_0002  50k  
I_I1         $N_0003 0 DC 10mA  
C_C1         $N_0003 0  100u  
C_C2         $N_0004 $N_0002  100u  
R_R1         $N_0002 $N_0001  50k  
R_R4         $N_0005 $N_0001  50  
Q_Q1         $N_0005 $N_0002 $N_0003 BC547C 
L_L1         $N_0004 0  489uH  
C_C8         $N_0006 $N_0004  11n  
C_C9         0 $N_0006  24.36n  
V_V2         $N_0007 0 DC 0V AC 1V 
R_R3         $N_0007 $N_0006  50  
V_V3         $N_0008 0 4V
X_M3         0 $N_0010 $N_0008 $N_0009 BF904R/PLP
V_V5         $N_0010 0 8V
V_V4         $N_0009 0 1.1V
