* Schematics Netlist *



R_R1         $N_0002 $N_0001  50  
V_V1         $N_0002 0 DC 0 
+SIN 0 {in} 0.6meg 0 0 0
V_V3         vcc 0 5V
C_C1         $N_0001 $N_0003  10u  
R_R11         0 $N_0003  50  
X_U1         $N_0003 $N_0004 vcc 0 $N_0005 TL081/301/TI
D_D10         $N_0005 $N_0004 OA90-G 
C_C5         0 $N_0004  500n  
R_R10         0 $N_0004  100k  
