* Schematics Netlist *



R_R2         0 $N_0001  1.7k  
R_R1         0 $N_0002  1k  
C_C2         0 $N_0002  100n  
Q_Q1         $N_0003 $N_0001 $N_0002 QBF240/PLP 
L_L1         vcc $N_0003  20uH  
C_C3         $N_0003 $N_0004  100n  
C_C4         0 $N_0004  12.7p  
L_L2         $N_0004 $N_0005  72.5n  
C_C5         0 $N_0005  10p  
R_R3         $N_0001 vcc  8.3k  
V_V2         $N_0006 0  AC 2
+SIN 0 30m 1meg 0 0 0
R_R4         $N_0006 $N_0007  50  
C_C1         $N_0007 $N_0008  100n  
C_C6         0 $N_0008  126p  
L_L3         $N_0008 $N_0001  45.66n  
V_V1         vcc 0 10V
R_R7         0 $N_0009  1.7k  
L_L4         vcc $N_0010  20uH  
C_C8         $N_0010 $N_0011  100n  
C_C9         0 $N_0011  12.7p  
L_L5         $N_0011 $N_0012  72.5n  
C_C10         0 $N_0012  10p  
R_R9         $N_0009 vcc  8.3k  
R_R10         0 $N_0012  50  
V_V3         $N_0013 0  AC 2
+SIN 0 30m 1meg 0 0 0
R_R11         $N_0013 $N_0014  50  
C_C7         0 $N_0015  100n  
Q_Q2         $N_0010 $N_0009 $N_0016 QBF240/PLP 
R_R8         0 $N_0015  1k  
R_R6         0 $N_0005  50  
L_L7         $N_0015 $N_0016  35nH  
C_C11         $N_0014 $N_0017  100n  
L_L9         $N_0017 $N_0009  50nH  
