* Schematics Netlist *



X_Q1         $N_0003 $N_0002 $N_0001 BFR92A/PLP 
R_R4         0 $N_0001  7.5  
R_R3         0 $N_0002  680  
R_R2         $N_0002 $N_0004  270  
R_R1         $N_0004 $N_0003  2.7k  
V_V1         $N_0003 0 5V
