* Schematics Netlist *



R_R1         $N_0002 $N_0001  1  
R_R2         0 $N_0003  1  
L_L1         $N_0001 $N_0004  0.7654  
L_L2         $N_0004 $N_0003  1.8478  
C_C2         0 $N_0003  0.7654  
C_C1         0 $N_0004  1.8478  
V_V2         $N_0002 0 DC 0V AC 1 
