* Schematics Netlist *



R_R1         $N_0002 $N_0001  50  
R_R2         0 $N_0003  100k  
D_D3         $N_0003 0 OA90-G 
C_C1         $N_0001 $N_0003  10u  
D_D1         0 $N_0003 OA90-G 
L_L1         0 $N_0003  100uH  
V_V1         $N_0002 0 DC 0 
+SIN 0 300m 1meg 0 0 0
