* Schematics Netlist *



L_L1         $N_0001 $N_0002  4uH  
C_C2         0 $N_0002  13.145n  
C_C1         0 $N_0001  10.95n  
L_L3         $N_0003 $N_0004  253.3uH  
R_R1         $N_0005 $N_0002  50  
D_D1         $N_0004 0 D1N4148 
C_C3         $N_0004 $N_0001  0.1n  
D_D2         0 $N_0004 D1N4148 
R_R2         0 $N_0006  1k  
X_TX2    $N_0003 $N_0007 $N_0006 0 diplexor_TX2 
C_C4         0 $N_0006  25.33n  
V_V3         $N_0005 0 DC 0 AC 1
+SIN 0 0 1Meg 0 0 0
V_V4         $N_0007 0 0V
I_I1         $N_0001 0 DC 0 AC 0
+SIN 0 0.1 1Meg 0 0 0

.subckt diplexor_TX2 1 2 3 4  
K_TX2         L1_TX2 L2_TX2 1
L1_TX2         1 2 1uH
L2_TX2         3 4 1uH
.ends diplexor_TX2
